US06222039B1
203 ml 1.6M Butyllithium in hexane were added to a solution of 46.0 ml diisopropylamine in 120 ml THF at 0° over 1 h. The resultant LDA-solution was stirred at 0° for 1 h and then cooled down to −75°. 50.8 g 3-cyclopentyl-propionic acid methylester dissolved in 65 ml THF were added at −75° over 1 h and stirring at that temperature was continued for 1 h. 67.6 g 3-(3-tert-butoxy-2-oxo-propyl)-1,5,5-trimethyl-imidazolidine-2,4-dione dissolved in 65 ml THF were added at −75° over 1 h and after additional stirring at −75° for 1 h, 50 ml conc. H2SO4 were added over 15 minutes. The reaction mixture was refluxed for 3 h, cooled down to r.t. and hydrolyzed with 300 ml deionized water. The organic layer was separated, washed with 10% brine and dried over Na2SO4. Filtration and evaporation of the solvent afforded 96.5 g crude 3-(4-cyclopentylmethyl-3-hydroxy-5-oxo-tetrahydro-furan-3-ylmethyl)-(1,5,5-trimethyl-imidazolidine-2,4-dione as a yellow oil, which was used without purification for the next step. 3-Cyclopentyl-propionic acid methylester was prepared from the corresponding acid (ACROS No. 11161). The methylester is also available at Chemische Fabrik K. Bucher.

reactant | Butyllithium | 1.6M, 203 ml | C(CCC)[Li]
reactant | diisopropylamine | 46.0 ml | C(C)(C)NC(C)C | C6H15N
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-cyclopentyl-propionic acid methylester | 50.8 g | COC(CCC1CCCC1)=O | C9H16O2
reactant | 3-(3-tert-butoxy-2-oxo-propyl)-1,5,5-trimethyl-imidazolidine-2,4-dione | 67.6 g | C(C)(C)(C)OCC(CN1C(N(C(C1=O)(C)C)C)=O)=O | C13H22N2O4
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | hexane | CCCCCC | C6H14
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1,5,5-trimethyl-imidazolidine-2,4-dione | CN1C(NC(C1(C)C)=O)=O | C6H10N2O2
